### PR TITLE
Cleanup

### PR DESCRIPTION
**Pull request by pi8027**
As a preliminary work of better reimplementation of multiple monomial order instances, I propose an extensive cleanup of multinomials here.

### CODE REVIEW

File: src/mpoly.v [hunk 1]
```diff
@@ -241,29 +176,32 @@ Reserved Notation "-%MM"
 
 (* -------------------------------------------------------------------- *)
 Section MultinomDef.
-Variable n : nat.
+Context (n : nat).
 
-Inductive multinom : predArgType :=
-  Multinom of n.-tuple nat.
+Record multinom : predArgType := Multinom { multinom_val : n.-tuple nat }.
```
Comment (proux01) [inline src/mpoly.v:181]: could even be
```suggestion
Record multinom : predArgType := Multinom { multinom_val :> n.-tuple nat }.
```
and remove the Coercion line below

File: src/mpoly.v [hunk 2]
```diff
@@ -660,37 +572,33 @@ Canonical multinom_bDistrLatticeType :=
...
+Lemma mdeg_max m1 m2 : mdeg (m1 `|` m2)%O = maxn (mdeg m1) (mdeg m2).
 Proof.
-case: (leP m1 m2) => [/dup[]|].
-  by move=> /join_idPl<- /lemc_mdeg/maxn_idPr->.
-by move/ltW=> /dup[] /join_idPr<- /lemc_mdeg/maxn_idPl.
+have [/lemc_mdeg|Hgt] := leP; first by case: ltngtP.
+by apply/esym/maxn_idPl; apply/contra_lt_leq: Hgt => /lt_mdeg_ltmc /ltW.
 Qed.
 
+(* FIXME: introduce \max_ ? *)
```
Comment (proux01) [inline src/mpoly.v:593]: Maybe this would better convey the fact that this only works for total orders?
Otherwise, join seems fine.

File: src/mpoly.v [hunk 3]
```diff
@@ -5144,14 +4900,12 @@ End ProjHomog.
...
 (* -------------------------------------------------------------------- *)
 Section MPolyHomogType.
-Variable n : nat.
-Variable R : ringType.
-Variable d : nat.
+Context (n : nat) (R : ringType) (d : nat).
 
-Inductive dhomog := DHomog (p : {mpoly R[n]}) of p \is d.-homog.
+Record dhomog :=
+  DHomog { mpoly_of_dhomog : {mpoly R[n]}; _ : mpoly_of_dhomog \is d.-homog }.
```
Comment (proux01) [inline src/mpoly.v:4906]: maybe
```suggestion
Record dhomog :=
  DHomog { mpoly_of_dhomog :> {mpoly R[n]}; _ : mpoly_of_dhomog \is d.-homog }.
```
and remove the coercion line below

**Review by proux01 — APPROVED** [review]
LGTM

**Comment by strub** [comment]
I just merged a PR that conflicts with this one. Could you fix the conflicts s.t. I can merge your PR?

**Comment by pi8027** [comment]
Done.
